US08729308B2
Preparation of the (S)-3-(dimethylamino)-2-methyl-1-(3-aminophenyl)-propan-1-one (XII)
(S)-3-(dimethylamino)-2-methyl-1-(3-nitro-phenyl)-propan-1-one (100 g, 0.423 mol), methyl-tetrahydrofuran (400 ml) and Pd/C 5%, anhydrous (4.0 g) are added into a 1 liter autoclave, at room temperature. The suspension is cooled to 0-4° C., then it is hydrogenated at 2 bars of hydrogen gas without exceeding 8° C. The conversion is monitored using HPLC and it is deemed complete when the HPLC area % of the initial product and the reaction intermediates is <0.3. Then catalyst is filtered and the solution can be used as it is in the subsequent step or concentrated under vacuum at 45-50° C. to oily residue. About 86 g of yellow to dark red oil are obtained (about 98% yield, ee≧97%, purity ≧92%).

reactant | (S)-3-(dimethylamino)-2-methyl-1-(3-nitro-phenyl)-propan-1-one | 0.423 mol, 100 g | CN(C[C@@H](C(=O)C1=CC(=CC=C1)[N+](=O)[O-])C)C | C12H16N2O3
reactant | hydrogen | [H][H] | H2
catalyst | Pd/C | [Pd] | Pd
solvent | methyl-tetrahydrofuran | 400 ml | CC1OCCC1 | C5H10O
product | (S)-3-(dimethylamino)-2-methyl-1-(3-aminophenyl)-propan-1-one | about 98% yield | CN(C[C@@H](C(=O)C1=CC(=CC=C1)N)C)C | C12H18N2O
